US06730792B2
A 25 ml 1-propanol solution of 2-methoxyphenyl boronic acid (1.2 g, 7.5 mmol) and 5-bromothien-2-ylsulfonamide (1.2 g, 5 mmol) is stirred under N2 at room temperature. Palladium(II) acetate (56 mg, 0.25 mmol), triphenylphosphine (200 mg, 0.75 mmol), 2M aqueous Na2CO3 (3 ml, 6 mmol), and 7 ml H2O are added and the resulting mixture is refluxed (˜88° C.) for 1 hour. The reaction is cooled, diluted with ethyl acetate, washed with brine, and the brine back extracted with ethyl acetate. The extracts are combined, washed with aqueous NaHCO3, brine, dried (Na2SO4), filtered, and the filtrate is concentrated. The residue is purified by chromatography (SiO2, ethyl acetate/hexane gradient) to give 943 mg (70%) of 5-(2-methoxyphenyl)thiophene-2-sulfonamide.

reactant | 2-methoxyphenyl boronic acid | 7.5 mmol, 1.2 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | 5-bromothien-2-ylsulfonamide | 5 mmol, 1.2 g | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
reactant | triphenylphosphine | 0.75 mmol, 200 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Na2CO3 | 6 mmol, 2M, 3 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Palladium(II) acetate | 0.25 mmol, 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | H2O | 7 ml | O | H2O
solvent | 1-propanol | 25 ml | C(CC)O | C3H8O
product | 5-(2-methoxyphenyl)thiophene-2-sulfonamide | 943 mg, 70% | COC1=C(C=CC=C1)C1=CC=C(S1)S(=O)(=O)N | C11H11NO3S2
